US05811459
A solution of 4-[2-(2-benzyloxyphenyl)ethenyl]-benzenecarbonyl chloride (0.98 g) in dichloromethane (5 ml) was added dropwise to a solution of 2-aminoethanol (0.51 ml) in dichloromethane (15 ml) maintained at 0° C. The reaction mixture was allowed to warm to ambient temperature and was stirred for 16 hours. The reaction mixture was washed with water (20 ml) and saturated aqueous sodium bicarbonate (20 ml) and dried. Evaporation of the solvent left a solid residue which was crystallised twice from methanol to give (E)-4-[2-(2-benzyloxyphenyl)ethenyl]-N-(2-hydroxyethyl)benzenecarboxamide (m.p. 149°-151° C.; yield 19%) containing about 4% of the related Z-isomer.

reactant | 4-[2-(2-benzyloxyphenyl)ethenyl]-benzenecarbonyl chloride | 0.98 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=CC=C(C=C1)C(=O)Cl | C22H17ClO2
reactant | 2-aminoethanol | 0.51 ml | NCCO | C2H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (E)-4-[2-(2-benzyloxyphenyl)ethenyl]-N-(2-hydroxyethyl)benzenecarboxamide | yield 19% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)/C=C/C1=CC=C(C=C1)C(=O)NCCO | C24H23NO3
